US05200422
d) N-(2-nitrophenyl)-2-benzoxazolinone
N-(2,4-dinitrophenyl)-5-chloro-2-benzoxazolinone by reaction between 2,4-dinitro-chlorobenzene and 5-chloro-2-benzoxazolinone. The product was used without further purification.

reactant | N-(2,4-dinitrophenyl)-5-chloro-2-benzoxazolinone | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])N1C(OC2=C1C=C(C=C2)Cl)=O | C13H6ClN3O6
reactant | 2,4-dinitro-chlorobenzene | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C6H3ClN2O4
reactant | 5-chloro-2-benzoxazolinone | ClC=1C=CC2=C(NC(O2)=O)C1 | C7H4ClNO2
product | N-(2-nitrophenyl)-2-benzoxazolinone | [N+](=O)([O-])C1=C(C=CC=C1)N1C(OC2=C1C=CC=C2)=O | C13H8N2O4
